US05543519
2.29 g of 6-benzyloxy-4-methoxymethyl-3-acetyl-9-tosyl-β-carboline is stirred with the double molar amount of phenyltrimethylammonium tribromide in 100 ml of absolute tetrahydrofuran for 4 days at room temperature. The reaction mixture is evaporated to dryness, taken up in methylene chloride, washed with saturated NaCl solution, dried on Sikkon and concentrated by evaporation. The crude product is chromatographed on silica gel (cyclohexane/ethyl acetate=8+2). 1.9 g of 6-benzyloxy-3-bromoacetyl-4-methoxymethyl-9-tosyl-β-carboline is obtained. Melting point 165° C. (decomposition).

reactant | 6-benzyloxy-4-methoxymethyl-3-acetyl-9-tosyl-β-carboline | 2.29 g | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)C(C)=O)COC | C29H26N2O5S
reactant | phenyltrimethylammonium tribromide | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-benzyloxy-3-bromoacetyl-4-methoxymethyl-9-tosyl-β-carboline | 1.9 g | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)C(CBr)=O)COC | C29H25BrN2O5S
